US06869952B2
To a stirred solution of 4-chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid methyl ester (0.5 g, 2.22 mmol) and 2-methyl-5-hydroxyindole (424 mg, 2.9 mmol) under argon in acetonitrile (10.0 mL) was added triethylamine (6.65 mmol, 0.93 mL). After stirring the mixture at room temperature for 17 h. solvent was removed under vacuum and the residue was chromatographed on silica gel eluting with 20-30% ethyl acetate (gradient) in hexanes. The solvent was removed in vacuo to obtain 5-methyl-4-(2-methyl-1H-indol-5-yloxy)-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid methyl ester as a white solid (0.58 g, 85%). LC/MS; (M+H)+=337.2

reactant | 4-chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid methyl ester | 2.22 mmol, 0.5 g | COC(=O)C=1C(=C2C(=NC=NN2C1)Cl)C | C9H8ClN3O2
reactant | 2-methyl-5-hydroxyindole | 2.9 mmol, 424 mg | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
reactant | triethylamine | 6.65 mmol, 0.93 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | 5-methyl-4-(2-methyl-1H-indol-5-yloxy)-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid methyl ester | 0.58 g, 85% | COC(=O)C=1C(=C2C(=NC=NN2C1)OC=1C=C2C=C(NC2=CC1)C)C | C18H16N4O3
